simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (strobe 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=5n period=12n
Vvin (analog_sample 0) vsource type=pwl wave=[ 0 0.1 10n 0.8 30n 0.2 55n 0.75 90n 0.3 120n 0.85 ]

XDUT (analog_sample strobe vdd vss held_sample) v2_sample_hold_not_follower_009

tran tran stop=120n maxstep=500p
save analog_sample strobe held_sample
